US08980911B2
A mixture of methyl 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)benzoate, (30 mg, 0.06 mmol) and sodium hydroxide (27 mg, 0.06 mmol) were stirred in tetrahydrofuran and water (1:1, 6 mL) solution for about 2 hours, followed by slowly addition of aqueous hydrochloric acid till pH 4-5. The precipitated product was filtered and dried under vacuum to afford 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)benzoic acid (20 mg, 62.5%).

reactant | methyl 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)benzoate | 0.06 mmol, 30 mg | ClC=1C=C(C(=O)OC)C=C(C1C(=O)C1=CNC2=C(N=CC=C21)NC(=O)C2CC2)Cl | C20H15Cl2N3O4
reactant | sodium hydroxide | 0.06 mmol, 27 mg | [OH-].[Na+]
reactant | water | 6 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)benzoic acid | 20 mg, 62.5% | ClC=1C=C(C(=O)O)C=C(C1C(=O)C1=CNC2=C(N=CC=C21)NC(=O)C2CC2)Cl | C19H13Cl2N3O4
